US07585871B2
Synthesis of 4-[(3,8-difluoro-6-methylphenanthridin-5(6H)-yl)carbonyl]phenol
4-[(3,8-Difluoro-6-methylphenanthridin-5(6H)-yl)carbonyl]phenol—A stirred suspension of 3,8-difluoro-5-(4-methoxybenzoyl)-6-methyl-5,6-dihydrophenanthridine (0.20 g, 0.55 mmol) and cyclohexene (1.64 g, 20.0 mmol) was treated at room temperature under nitrogen with a solution of 1.0 M boron tribromide in dichloromethane (4.0 mL, 4.0 mmol). After stirring for approximately two hours at room temperature, the reaction was cooled to −20° C. and quenched with methanol (5 mL). The solvent was evaporated in vacuo to a dark oil. The dark oil was purified by preparative liquid chromatography on a Biotage® 40 Mi column of pre-packed silica gel (90 g), eluting with a gradient of between 5% and 30% methyl tert-butyl ether in hexane at a flow rate of 50 mL/min to afford, after evaporation of the solvent in vacuo and trituration with diethyl ether-hexane, the title compound (0.19 g, 0.54 mmol, 99%) as a homogeneous, colorless, racemic solid, m.p. 193-195° C.; MS [(+ESI), m/z]: 352 [M+H]+; MS [(−ESI), m/z]: 350 [M−H]−; 1H NMR (400 MHz, DMSO-d6) δ: 1.21 (d, J=7.0 Hz, 3H), 5.71 (q, J=6.8 Hz, 1H), 6.55 (dd, J=10.5, 2.5 Hz, 1H), 6.70 (d, J=8.6 Hz, 2H), 7.06 (td, J=8.6, 2.6 Hz, 1H), 7.16 (d, J=8.6 Hz, 2H), 7.27 (td, J=8.8, 2.7 Hz, 1 H), 7.38 (dd, J=9.2, 2.7 Hz, 1H), 7.97 (dd, J=9.0, 6.4 Hz, 1H), 8.01 (dd, J=9.1, 6.0 Hz, 1H), 10.04 (s, 1H).

reactant | 3,8-difluoro-5-(4-methoxybenzoyl)-6-methyl-5,6-dihydrophenanthridine | 0.55 mmol, 0.20 g | FC=1C=CC=2C3=CC=C(C=C3C(N(C2C1)C(C1=CC=C(C=C1)OC)=O)C)F | C22H17F2NO2
reactant | cyclohexene | 20.0 mmol, 1.64 g | C1=CCCCC1 | C6H10
reactant | boron tribromide | 1.0 M | B(Br)(Br)Br | BBr3
reactant | dichloromethane | 4.0 mmol, 4.0 mL | ClCCl | CH2Cl2
product | 4-[(3,8-difluoro-6-methylphenanthridin-5(6H)-yl)carbonyl]phenol | 0.54 mmol, 0.19 g, 99% | FC=1C=CC=2C3=CC=C(C=C3C(N(C2C1)C(=O)C1=CC=C(C=C1)O)C)F | C21H15F2NO2
